US08686628B2
(1) Synthesis of 9-phenylanthracene.
5.4 g (21.1 mmol) of 9-bromoarthracene, 2.6 g (21.1 mmol) of phenylboronic acid, 60 mg (0.21 mmol) of palladium acetate (abbreviation: Pd(OAc)2), 10 mL (20 mmol) of potassium carbonate solution (2 mmol), 263 mg (0.84 mmol) of tris(ortho-tolyl)phosphine (abbreviation: P(o-tolyl)3), and 20 mL of 1,2-dimethoxyethane (abbreviation: DME) were put in a 200 mL three neck flask, and then stirred for 9 hours at 80° C. in a nitrogen gas stream. After reaction, a precipitated solid was collected by suction filtration. Then, the solid was dissolved in toluene and then filtered through florisil®, celite, and alumina. After a filtrate was washed with water and saturated saline, it was dried with magnesium sulfate. After a mixed solution was naturally filtered and concentrated, 21.5 g of 9-phenylanthracene which was a target substance and was a light brown solid was obtained in a yield of 85% (Synthesis Scheme (b-1))

reactant | phenylboronic acid | 21.1 mmol, 2.6 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 20 mmol, 10 mL | C([O-])([O-])=O.[K+].[K+]
reactant | tris(ortho-tolyl)phosphine | 0.84 mmol, 263 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium acetate | 0.21 mmol, 60 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 9-phenylanthracene | yield of 85% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C20H14
